US07598257B2
Step 2: 1-[(Benzyloxy)methyl]cyclopentanecarbonitrile
To a solution of 1-(hydroxymethyl)cyclopentanecarbonitrile (0.30 g, 2.0 mmol) in DMF (4 mL) was added sodium hydride (60% dispersion in mineral oil, 0.101 g, 2.52 mol). The resulting mixture was stirred for 20 minutes, followed by the addition of benzyl bromide (0.28 mL, 2.4 mmol). The reaction was stirred at ambient temperature for 64 hours. Additional sodium hydride (60% dispersion in mineral oil, 0.060 g, 1.5 mmol) and benzyl bromide (0.18 mL, 1.5 mmol) were added and the reaction was stirred for an additional 30 minutes. Water was then added to the mixture, followed by brine, and the aqueous layer was extracted with ethyl acetate. The extracts were combined and dried over sodium sulfate, and the solvent was then removed in vacuo. To the resulting residue was added water. The product was isolated by extraction with diethyl ether. The ethereal extracts were dried over sodium sulfate, and the solvent was evaporated. Flash column chromatography (eluting with a gradient from 0-30% ethyl acetate in hexanes) afforded product (330 mg, 64%).

reactant | 1-(hydroxymethyl)cyclopentanecarbonitrile | 2.0 mmol, 0.30 g | OCC1(CCCC1)C#N | C7H11NO
reactant | sodium hydride | 2.52 mol, 0.101 g | [H-].[Na+]
reactant | benzyl bromide | 2.4 mmol, 0.28 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydride | 1.5 mmol, 0.060 g | [H-].[Na+]
reactant | benzyl bromide | 1.5 mmol, 0.18 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 1-[(Benzyloxy)methyl]cyclopentanecarbonitrile | 330 mg, 64% | C(C1=CC=CC=C1)OCC1(CCCC1)C#N | C14H17NO
